US07008940B1
2,5-Dimethoxy-3,4-dimethylbenzaldehyde
To a solution of 1,4-dimethoxy-2,3-dimethylbenzene (100 g, 0.60 mol) and dichloromethyl methyl ether (65 mL, 0.72 mol) in dichloromethane (400 mL) was added dropwise titanium tetrachloride (IV)(100 mL, 0.91 mol) over 30 minutes under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was poured into ice (1 kg), the organic layer was separated, and the aqueous layer was extracted twice with dichloromethane. The combined organic layers were washes with water and saturated brine, passed through sodium sulfate-silica gel, dried (eluted with hexane-ethyl acetate 5:1) and concentrated under reduced pressure. The residue was recrystallized from hexane to obtain 107 g of the title compound.

reactant | 1,4-dimethoxy-2,3-dimethylbenzene | 0.60 mol, 100 g | COC1=C(C(=C(C=C1)OC)C)C | C10H14O2
reactant | dichloromethyl methyl ether | 0.72 mol, 65 mL | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 0.91 mol, 100 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 2,5-Dimethoxy-3,4-dimethylbenzaldehyde | 107 g, Yield 92% | COC1=C(C=O)C=C(C(=C1C)C)OC | C11H14O3
